US04666923
7,7-Dimethyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one tetrahydrate
0.15 ml. Phosphorus oxychloride are added to a solution of 221 mg. (1 mmol) 6-amino-5-nitro-3,3-dimethyl-indolin-2-one in 2 ml. dimethylformamide containing 0.5 ml. pyridine and 123 mg. (4 mmol) isonicotinic acid. The reaction mixture is then stirred for about 3 hours, poured on to ice water and the crystals obtained are filtered off with suction. Subsequently, the product is hydrogenated in 10 ml. ethanol containing 0.2 ml. triethylamine in the presence of Pd/C. The catalyst is then filtered off with suction, the filtrate is evaporated and the residue is heated under reflux for about 6 hours in a solution of 5 ml. ethanol and 1 ml. concentrated hydrochloric acid. The reaction mixture is then evaporated, digested with an aqueous solution of ammonia and the product obtained recrystallised from ethanol/water. Yield: 220 mg. (63% of theory); m.p. 215° C.

reactant | Phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 6-amino-5-nitro-3,3-dimethyl-indolin-2-one | 1 mmol | NC1=C(C=C2C(C(NC2=C1)=O)(C)C)[N+](=O)[O-] | C10H11N3O3
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | isonicotinic acid | 4 mmol | C(C1=CC=NC=C1)(=O)O | C6H5NO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 7,7-Dimethyl-2-(4-pyridyl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one tetrahydrate | O.O.O.O.CC1(C(NC2=CC3=C(N=C(N3)C3=CC=NC=C3)C=C21)=O)C | InChI=1S/C16H14N4O.4H2O/c1-16(2)10-7-12-13(8-11(10)20-15(16)21)19-14(18-12)9-3-5-17-6-4-9;;;;/h3-8H,1-2H3,(H,18,19)(H,20,21);4*1H2
